US04476131
dl-7-Hydroxy-6-[2-(5-tetrazolyl)ethyl]-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline
Finely ground sodium azide (325 mg., 5 mmole) is added to a solution of 7-acetoxy-6-(2-cyanoethyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido-[1,2-a]quinoline (506 mg., 1 mmole) in 5 ml. of ethanol-free chloroform containing 271 mg. (2 mmole) N-methyl-piperidine hydrochloride and 5 drops of N-methylpiperidine. The mixture is heated at reflux for one hour, another 2 mmole of N-methylpiperidine hydrochloride is added, refluxing continued for another hour and allowed to stand overnight at room temperature. The mixture is partitioned between chloroform and aqueous sodium carbonate solution. The aqueous layer is adjusted to pH 5, extracted again with chloroform and the combined organic layers washed with water and the chloroform is dried (MgSO4) Evaporation of solvent under reduced pressure affords the title compound.

reactant | sodium azide | 5 mmole, 325 mg | [N-]=[N+]=[N-].[Na+]
reactant | 7-acetoxy-6-(2-cyanoethyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido-[1,2-a]quinoline | 1 mmole, 506 mg | C(C)(=O)OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCC#N | C29H36N2O3
reactant | N-methyl-piperidine hydrochloride | 2 mmole | Cl.CN1CCCCC1
reactant | N-methylpiperidine hydrochloride | 2 mmole | Cl.CN1CCCCC1
catalyst | N-methylpiperidine | 5 drops | CN1CCCCC1 | C6H13N
solvent | ethanol | 271 mg | C(C)O | C2H6O
product | 7-Hydroxy-6-[2-(5-tetrazolyl)ethyl]-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]quinoline | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCC3=NN=NN3 | C27H35N5O2
